US07262318B2
2-Methyl-5-[4-(4-trifluoromethyl-benzylsulfanyl)-phenylsulfamoyl]-benzoic acid
A solution of 1.0N aqueous sodium hydroxide (9.1 ml, 9.16 mmol) was added to a solution of 2-methyl-5-[4-(4-trifluoromethyl-benzylsulfanyl)-phenylsulfamoyl]-benzoic acid methyl ester (1.13 g, 2.29 mmol) in 100 ml methanol and the resulting solution was heated at reflux overnight under nitrogen. The reaction solution was then cooled to room temperature and concentrated under reduced pressure. The residue was stirred in 1.0N aqueous hydrochloric acid solution (25 ml) and filtered to yield the title compound as a white solid (1.03 g, 94% yield). MS: 480.2 (M−1); 1H NMR (400 MHz, CD3OD): δ2.49 (s, 3H), 4.04 (s, 2H), 6.96 (d, 2H), 7.1 (d, 2H), 7.29 (m, 2H), 7.33 (d, 1H), 7.47 (m, 3H), 7.94 (b, 1H).

reactant | sodium hydroxide | 9.16 mmol, 1.0N, 9.1 ml | [OH-].[Na+]
reactant | 2-methyl-5-[4-(4-trifluoromethyl-benzylsulfanyl)-phenylsulfamoyl]-benzoic acid methyl ester | 2.29 mmol, 1.13 g | COC(C1=C(C=CC(=C1)S(NC1=CC=C(C=C1)SCC1=CC=C(C=C1)C(F)(F)F)(=O)=O)C)=O | C23H20F3NO4S2
solvent | methanol | 100 ml | CO | CH4O
product | 2-Methyl-5-[4-(4-trifluoromethyl-benzylsulfanyl)-phenylsulfamoyl]-benzoic acid | 1.03 g, 94% yield | CC1=C(C(=O)O)C=C(C=C1)S(NC1=CC=C(C=C1)SCC1=CC=C(C=C1)C(F)(F)F)(=O)=O | C22H18F3NO4S2
